US08486979B2
5-(2,7-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according Method C using 2,7-dimethylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid (Maybridge) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ2.52 (s, 3 H), 3.27 (s, 3 H), 6.77 (s, 1 H), 7.67 (ddd, J=8.0, 4.9, 0.7 Hz, 1 H), 8.48 (dt, J=8.6, 1.9 Hz, 1 H), 8.84 (dd, J=4.7, 1.7 Hz, 1 H), 9.06 (s, 1 H), 9.30 (dd, J=2.2, 0.8 Hz, 1 H), 9.30 (d, J=1.4 Hz, 1 H) ppm; MS (DCI/NH3) m/z 293 (M+H)+.

reactant | 2,7-dimethylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid | CC1=NN2C(N=CC(=C2C)C(=O)O)=C1 | C9H9N3O2
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 5-(2,7-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | CC1=NN2C(N=CC(=C2C)C2=NC(=NO2)C=2C=NC=CC2)=C1 | C15H12N6O
